US07288655B2
4-(2-Methoxypyrimidin-5-yl)glutaric anhydride
4-Carboxy-3-(2-methoxypyrimidin-5-yl)butanoic acid (11.5 kg) was treated with trifluoroacetic anhydride (12.1 kg) in THF (58 L) at 50-55° C. for several hours. Slow addition of heptane (195 L) followed by cooling to ambient temperature resulted in the crystallization of the title compound; 94% yield.

reactant | 4-Carboxy-3-(2-methoxypyrimidin-5-yl)butanoic acid | 11.5 kg | C(=O)(O)CC(CC(=O)O)C=1C=NC(=NC1)OC | C10H12N2O5
reactant | trifluoroacetic anhydride | 12.1 kg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | heptane | 195 L | CCCCCCC | C7H16
solvent | THF | 58 L | C1CCOC1 | C4H8O
product | 4-(2-Methoxypyrimidin-5-yl)glutaric anhydride | 94% yield | COC1=NC=C(C=N1)C1CCC(=O)OC1=O | C10H10N2O4
